US05981492
71a. (R)-2-Amino-2-phenylethanol
20 g (920 mmol) of lithium borohydride are dissolved in 420 ml of absolute tetrahydrofuran. 233.5 ml (1.84 mol) of trimethylchlorosilane are added dropwise, while stirring, and 69.5 g (0.46 mol) of (R)-phenylglycine are then added in portions within the space of 4 hours. The reaction mixture is stirred at room temperature overnight. 690 ml of methanol are then added and the mixture is stirred at room temperature for 2 hours and concentrated in vacuo. The residue is dissolved, while stirring, in 690 ml of a 20% aqueous solution of potassium hydroxide. The aqueous phase is extracted three times with ethyl acetate. The combined organic phases are washed with water, dried over magnesium sulphate and concentrated in vacuo.

reactant | lithium borohydride | 920 mmol, 20 g | [BH4-].[Li+]
reactant | trimethylchlorosilane | 1.84 mol, 233.5 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | (R)-phenylglycine | 0.46 mol, 69.5 g | C=1C=CC(=CC1)[C@H](C(=O)O)N | C8H9NO2
reactant | methanol | 690 ml | CO | CH4O
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
product | (R)-2-Amino-2-phenylethanol | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
